US06380218B1
3-(5-Phenyl-4,5-dihydro-oxazol-2-yl)-2-(Pyridin-3-yloxy)-pyridine
A solution of N-(2-Hydroxy-2-phenyl-ethyl)-2-(pyridin-3-yloxy)-nicotinamide (0.450 grams, 1.3 mmole) and phosphorus oxychloride (1.25 ml, 13 mmole) in toluene (5 ml) was stirred over night. The mixture was concentrated to dryness and dissolved in methanol (5 ml) and potassium carbonate (0.500 g) was added. The mixture was stirred at room temperature over night. The mixture was poured into water and extracted with ethyl acetate. The combined organics were washed with water and brine, dried over Na2SO4, and concentrated to give an oil that was purified by chromatography on silica gel eluting with ethyl acetate to give a colorless oil (0.042 g). HRMS 318.1269; 1H NMR (400 mHz, CDCl3) d 4.09 (dd, J=15.1 Hz, 8.1 Hz, 6H), 4.57 (dd, J=15.1 Hz, 10.3 Hz, 1H), 5.67 (dd, J=10.2 Hz, 7.9 Hz, 1H), 7.09-7.13 (m, 1H), 7.32-7.39 (m, 6H), 7.54-7.57 (m, 1H), 8.20-8.22 (m, 1H), 8.29-8.31 (m, 1H), 8.46 (dd, J=4.6 Hz, 1.0 Hz, 1H), 8.61-8.64 (m, 1H).

reactant | N-(2-Hydroxy-2-phenyl-ethyl)-2-(pyridin-3-yloxy)-nicotinamide | 1.3 mmole, 0.450 grams | OC(CNC(C1=C(N=CC=C1)OC=1C=NC=CC1)=O)C1=CC=CC=C1 | C19H17N3O3
reactant | phosphorus oxychloride | 13 mmole, 1.25 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
solvent | toluene | 5 ml | C1(=CC=CC=C1)C | C7H8
product | 3-(5-Phenyl-4,5-dihydro-oxazol-2-yl)-2-(Pyridin-3-yloxy)-pyridine | 0.042 g | C1(=CC=CC=C1)C1CN=C(O1)C=1C(=NC=CC1)OC=1C=NC=CC1 | C19H15N3O2
